US06972295B2
Step B 2-Methyl-2-(5-chloro-2-pyridyloxy)propionic Acid
A mixture of ethyl 2-methyl-2-(5-chloro-2-pyridyloxy)propionate and sodium hydroxide (0.85 g, 21 mmol) in 15 mL acetonitrile and 15 mL water was heated at 50° C. overnight. The volatile materials were removed by concentrating on a rotary evaporator, and the residue was partitioned between 2 M hydrochloric acid (100 mL) and ether (100 mL). The organic layer was separated and washed with water (2×50 mL), dried over anhydrous MgSO4, filtered and concentrated to dryness to give the title compound. 1H NMR (500 MHz, CD3OD): δ 8.02 (d, 1H), 7.65 (dd, 1H), 6.77 (d, 1H), 1.62 (s, 6H). LC-MS: m/e 216 (M+H)+ (2.33 min).

reactant | ethyl 2-methyl-2-(5-chloro-2-pyridyloxy)propionate | CC(C(=O)OCC)(C)OC1=NC=C(C=C1)Cl | C11H14ClNO3
reactant | sodium hydroxide | 21 mmol, 0.85 g | [OH-].[Na+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | water | 15 mL | O | H2O
product | 2-Methyl-2-(5-chloro-2-pyridyloxy)propionic Acid | CC(C(=O)O)(C)OC1=NC=C(C=C1)Cl | C9H10ClNO3
